US04975439
A mixture of 4.5 parts of cis-4-amino-5-chloro-2-methoxy-N-(3-methoxy-4-piperidinyl)benzamide, 2.12 parts of sodium carbonate, 0.1 parts of potassium iodide and 120 parts of 4-methyl-2-pentanone was stirred and refluxed for 15 minutes using a water separator. Then there were added 3.92 parts of 1-(4-chloro-1-oxobutyl)-2,6-dimethylpiperidine and stirring was continued first for 3 hours at reflux and then overnight at room temperature. Water was added. The product was filtered off and purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 5.25 parts (70.7%) of cis-4-amino-5-chloro-N-[1-[4-(2,6-dimethyl-1-piperidinyl)-4-oxobutyl]3-methoxy-4-piperidinyl]-2-methoxybenzamide; mp. 202.1° C. (compound 47).

reactant | cis-4-amino-5-chloro-2-methoxy-N-(3-methoxy-4-piperidinyl)benzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CNCC2)OC)C=C1Cl)OC | C14H20ClN3O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
reactant | 1-(4-chloro-1-oxobutyl)-2,6-dimethylpiperidine | ClCCCC(=O)N1C(CCCC1C)C | C11H20ClNO
solvent | Water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | cis-4-amino-5-chloro-N-[1-[4-(2,6-dimethyl-1-piperidinyl)-4-oxobutyl]3-methoxy-4-piperidinyl]-2-methoxybenzamide | 70.7% | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCCC(=O)N2C(CCCC2C)C)OC)C=C1Cl)OC | C25H39ClN4O4
